US06653334B1
Synthesis of Ethyl 2-[3-(2-Aminoethyl)phenoxy]-2-methylpropionate
Under nitrogen atmosphere, ethyl 2-(3-aminocarbonylmethylphenoxy)-2-methylpropionate (507 mg, 1.91 mmol) was dissolved in tetrahydrofuran. Subsequently, borane-tetrahydrofuran complex in tetrahydrofuran solution [1M BH3-THF in THF (19.1 mL, 19.1 mmol)] was added thereto, and the mixture was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, followed by addition of 1M hydrochloric acid at 0° C. and stirring at room temperature. The resultant mixture was made basic with sodium carbonate, followed by extraction with chloroform and drying over sodium sulfate. The reaction mixture was subjected to filtration, concentration under reduced pressure, and purification by silica gel column chromatography (chloroform/methanol=10/1), whereby the target compound was obtained (261.8 mg, 1.04 mmol, 54.5%)

reactant | ethyl 2-(3-aminocarbonylmethylphenoxy)-2-methylpropionate | 1.91 mmol, 507 mg | NC(=O)CC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C14H19NO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 19.1 mmol, 1M, 19.1 mL | O1CCCC1 | C4H8O
product | Ethyl 2-[3-(2-Aminoethyl)phenoxy]-2-methylpropionate | NCCC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C14H21NO3
